US09029544B2
(3′S,9′S)-9′-(tert-butyldimethylsilyloxy)-2-iodo-4′-isopropyl-7′,7′-dimethyl-3′-(5-(trifluoromethyl)thiophen-2-yl)-6′,7′,8′,9′-tetrahydro-3′H-spiro[cyclopentane-1,1′-furo[3,4-c]quinoline]
To a solution of 67 mg (S)—((S)-5-(tert-butyldimethylsilyloxy)-4-cyclopentenyl-2-isopropyl-7,7-dimethyl-5,6,7,8-tetrahydroquinolin-3-yl)(5-(trifluoromethyl)thiophen-2-yl)methanol in 1 ml tetrahydrofurane and 1 ml acetonitrile are added under nitrogen 29 mg sodium bicarbonate and a solution of 88 mg of iodine in 200 μl tetrahydrofurane and the reaction is monitored by thin layer chromatography. In the case of low conversion the same amounts of sodium bicarbonate and iodine solution are added up to two times. The mixture is then diluted with diethylether and washed with saturated aqueous sodium sulfite solution and brine. After drying with sodium sulphate the solvents are evaporated in vacuo and the residue is chromatographed on silica gel (cyclohexane/ethylacetate 98:2 to 80:20).

reactant | (S)—((S)-5-(tert-butyldimethylsilyloxy)-4-cyclopentenyl-2-isopropyl-7,7-dimethyl-5,6,7,8-tetrahydroquinolin-3-yl)(5-(trifluoromethyl)thiophen-2-yl)methanol | 67 mg | [Si](C)(C)(C(C)(C)C)O[C@@H]1C=2C(=C(C(=NC2CC(C1)(C)C)C(C)C)[C@H](O)C=1SC(=CC1)C(F)(F)F)C1=CCCC1 | C31H44F3NO2SSi
reactant | iodine | 88 mg | II | I2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofurane | 1 ml | O1CCCC1 | C4H8O
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
solvent | tetrahydrofurane | 200 μl | O1CCCC1 | C4H8O
solvent | diethylether | C(C)OCC | C4H10O
product | (3′S,9′S)-9′-(tert-butyldimethylsilyloxy)-2-iodo-4′-isopropyl-7′,7′-dimethyl-3′-(5-(trifluoromethyl)thiophen-2-yl)-6′,7′,8′,9′-tetrahydro-3′H-spiro[cyclopentane-1,1′-furo[3,4-c]quinoline] | [Si](C)(C)(C(C)(C)C)O[C@@H]1C=2C3=C(C(=NC2CC(C1)(C)C)C(C)C)[C@H](OC31C(CCC1)I)C=1SC(=CC1)C(F)(F)F | C31H43F3INO2SSi
